US04552873
3-Methanesulphonyloxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine
To a solution of 32.2 g of 3-hydroxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine in 500 ml of methylene chloride, were added, with ice-cooling, 9.3 ml of methanesulphonyl chloride, followed by 16.7 ml of triethylamine. The mixture was stirred for 30 minutes, with ice-cooling, and then water was added, after which the mixture was extracted with methylene chloride and the extract was washed with water and dried, to give 36 g of the title compound.

reactant | 3-hydroxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine | 32.2 g | OC1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H17N3O5
reactant | methanesulphonyl chloride | 9.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 16.7 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-Methanesulphonyloxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine | 36 g | CS(=O)(=O)OC1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O7S
